US04503139
Thionyl chloride (50 ml) was stirred under nitrogen in an ice bath while 4-hydroxymethyl-5-methylimidazole (11.2 g, 0.1 m) was added in very small portions over a 15 minute period. The reaction was vigorous and the temperature was maintained between 10° and 20° C. A colorless precipitate formed. When the addition was complete, the temperature was raised slowly (about 1/2 hour) to 55°±5° C. and maintained at that level for about 1/2 hour. The mixture was then cooled to 10° C. and diluted with 100 ml of diethyl ether. The colorless precipitate was collected by filtration, washed well with diethyl ether and dried in air to give 15.23 g (91% yield) of 4-methyl-5-chloromethyl imidazole hydrochloride, m.p. 208°-211° C. (dec.).

reactant | Thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxymethyl-5-methylimidazole | 11.2 g | OCC=1N=CNC1C | C5H8N2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-methyl-5-chloromethyl imidazole hydrochloride | 15.23 g, 91% yield | Cl.CC=1N=CNC1CCl | InChI=1S/C5H7ClN2.ClH/c1-4-5(2-6)8-3-7-4;/h3H,2H2,1H3,(H,7,8);1H
